US09447106B2
To a solution of 8-nitro-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxamide (200 mg, 0.47 mmol) in 30 mL of CH3OH and 30 mL of DCM was added 10% w/w Pd/C (100 mg). After stirring at RT for 1 hr, the mixture was filtered. The filtrate was concentrated to afford 130 mg (70%) of crude 8-amino-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxamide and 8-amino-2-(4-phenoxyphenyl)pyrazolo[1,5-a]quinazoline-3-carboxamide as a yellow solid. MS (ESI) m/e [M+1]+398.0, 395.9.

reactant | 8-nitro-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxamide | 0.47 mmol, 200 mg | [N+](=O)([O-])C1=CC=C2CNC=3N(C2=C1)N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3 | C23H17N5O4
solvent | CH3OH | 30 mL | CO | CH4O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 8-amino-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxamide | 130 mg, 70% | NC1=CC=C2CNC=3N(C2=C1)N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3 | C23H19N5O2
